US05756743
1,4-Dihydro-1'-(4-methoxyphenyl)methyl-4-methylspiro[cyclopent[b]indole-3(2H),4'-piperidine]
A solution of 1,4-dihydro-4-methylspiro[cyclopent[b]indole-3(2H),4'-piperidine] (2.5 g) and triethylamine (2.9 ml) in dichloromethane (100 ml) and 4-(chloromethyl)anisole (1.95 g) was allowed to stand overnight at ambient temperature, under nitrogen, with stirring. Saturated sodium chloride solution was added and the mixture was extracted with dichloromethane. The layers were separated, and the organic phase was dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated in vacuo. The residue was flash chromatographed (silica gel), eluting with 7.5% acetone/dichloromethane. The appropriate fractions were collected and concentrated to give 1.5 g (40%) of product, mp 39°-40° C.

reactant | 1,4-dihydro-4-methylspiro[cyclopent[b]indole-3(2H),4'-piperidine] | 2.5 g | CN1C2=C(C=3C=CC=CC13)CCC21CCNCC1 | C16H20N2
reactant | triethylamine | 2.9 ml | C(C)N(CC)CC | C6H15N
reactant | 4-(chloromethyl)anisole | 1.95 g | ClCC1=CC=C(C=C1)OC | C8H9ClO
reactant | sodium chloride | [Cl-].[Na+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1,4-Dihydro-1'-(4-methoxyphenyl)methyl-4-methylspiro[cyclopent[b]indole-3(2H),4'-piperidine] | 1.5 g, 40% | COC1=CC=C(C=C1)CN1CCC2(CC1)CCC1=C2N(C=2C=CC=CC12)C | C24H28N2O
